US07728005B2
To (S)-(−)-methioninol (0.46 ml) were added di-t-butyl dicarbonate (0.88 g), triethylamine (0.77 ml) and dichloromethane (10 ml), and the mixture was stirred at room temperature for 24 hrs. Thereto were added methanesulfonyl chloride (0.34 ml) and triethylamine (1.0 ml), and the mixture was further stirred for 2 hrs. The reaction mixture was diluted with dichloromethane. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated to give a crude product. To this crude product were added dimethylformamide (10 ml) and lithium chloride (0.47 g), and the mixture was stirred overnight at 45° C. The solvent was evaporated, and the residue was diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated to give (1S)-1-chloromethyl-3-(methylthio)propylcarbamic acid tert-butyl ester as a crude product (0.6 g).

reactant | (S)-(−)-methioninol | 0.46 ml | N[C@@H](CCSC)CO | C5H13NOS
reactant | di-t-butyl dicarbonate | 0.88 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanesulfonyl chloride | 0.34 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium chloride | 0.47 g | [Cl-].[Li+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
product | (1S)-1-chloromethyl-3-(methylthio)propylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCSC)CCl)=O | C10H20ClNO2S
